US07915281B2
Ethoxyacetyl chloride (89%, 28 g, 0.20 mol) was added dropwise to a solution of 2-chloro-N4-prop-2-ynylquinoline-3,4-diamine (43.5 g, 0.188 mol) and triethylamine (39 mL, 0.28 mol) in dichloromethane (600 mL) at 6° C. After two hours, the reaction mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The aqueous layer was back-extracted with dichloromethane three times. The organic layers were combined and washed twice with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting brown solid was triturated with toluene with heating. A fine tan solid was isolated by filtration, rinsed with diethyl ether, and dried to yield N-[2-chloro-4-(prop-2-ynylamino)quinolin-3-yl]-2-ethoxyacetamide (47.2 g).

reactant | Ethoxyacetyl chloride | 0.20 mol, 28 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 2-chloro-N4-prop-2-ynylquinoline-3,4-diamine | 0.188 mol, 43.5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC#C | C12H10ClN3
reactant | triethylamine | 0.28 mol, 39 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4-(prop-2-ynylamino)quinolin-3-yl]-2-ethoxyacetamide | 47.2 g | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCC#C | C16H16ClN3O2
